US05559113
5 ml of freshly distilled tetrahydrofuran and 71 mg (0.6 mmol) of triphenylphosphine are added, under nitrogen, to 184 mg (0.5 mmol) of 1-triphenylmethyl-4-(3-hydroxypropyl)-1H-imidazole. The resulting mixture is cooled and stirred for 5 min. 104 mg (0.6 mmol) of diethyl azodicarboxylate in 3 ml of tetrahydrofuran are then slowly added and stirring is continued at room temperature for 3 hours under nitrogen. The solvent is then evaporated under reduced pressure and the residue is chromatographed on a column of silica gel (first eluent petroleum ether/diethyl ether (1/1); second eluent diethyl ether) to give 1-triphenylmethyl-4-[3-(4-cyanophenoxy)propyl]-1H-imidazole, .M.p.: 187°-188° C.

reactant | triphenylphosphine | 0.6 mmol, 71 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-triphenylmethyl-4-(3-hydroxypropyl)-1H-imidazole | 0.5 mmol, 184 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | diethyl azodicarboxylate | 0.6 mmol, 104 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1-triphenylmethyl-4-[3-(4-cyanophenoxy)propyl]-1H-imidazole | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCOC1=CC=C(C=C1)C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H27N3O
